US04370340
A mixture of 2-oxo-4-phenoxybenzothiazoline (2.0 g), ethyl bromoacetate (1.7 g), potassium carbonate (1.4 g) in acetone (30 ml) was refluxed for an hour with stirring. After the resultant mixture was filtered, the filtrate was concentrated under reduced pressure to give a residue, which was recrystallized from a mixture of ethanol and n-hexane to give crystalline ethyl 2-oxo-4-phenoxy-3-benzothiazolineacetate (2.0 g).

reactant | 2-oxo-4-phenoxybenzothiazoline | 2.0 g | O=C1SC2=C(N1)C(=CC=C2)OC2=CC=CC=C2 | C13H9NO2S
reactant | ethyl bromoacetate | 1.7 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | ethyl 2-oxo-4-phenoxy-3-benzothiazolineacetate | 2.0 g | O=C1SC2=C(N1CC(=O)OCC)C(=CC=C2)OC2=CC=CC=C2 | C17H15NO4S
